US04267175
Reaction between 4-acetylamino-5-bromo-2-methoxybenzoyl chloride (prepared from 2.1 g. of corresponding acid and thionyl chloride), N-amino-N'-methyl piperazine (0.85 g.) and triethylamine (2 ml.) in toluene followed by alkaline hydrolysis as described in Example 20 gave 4-amino-5-bromo-2-methoxy-N-[4-methyl-1-piperazinyl]-benzamide hemihydrate (1.78 g., 68%) m.p. 174°-6° (ex-chloroform).

reactant | 4-acetylamino-5-bromo-2-methoxybenzoyl chloride | 2.1 g | C(C)(=O)NC1=CC(=C(C(=O)Cl)C=C1Br)OC | C10H9BrClNO3
reactant | N-amino-N'-methyl piperazine | 0.85 g | NN1CCN(CC1)C | C5H13N3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-amino-5-bromo-2-methoxy-N-[4-methyl-1-piperazinyl]-benzamide hemihydrate | 1.78 g, 68% | O.NC1=CC(=C(C(=O)NN2CCN(CC2)C)C=C1Br)OC.NC1=CC(=C(C(=O)NN2CCN(CC2)C)C=C1Br)OC | InChI=1S/2C13H19BrN4O2.H2O/c2*1-17-3-5-18(6-4-17)16-13(19)9-7-10(14)11(15)8-12(9)20-2;/h2*7-8H,3-6,15H2,1-2H3,(H,16,19);1H2
